US08808703B2
Step 8: (5R,9R)-9-dodecanamido-3,12-dioxo-1-phenyl-2-oxa-7-thia-4,11-diazatricosane-5-carboxylic acid
(5R,9R)-tert-butyl 9-dodecanamido-3,12-dioxo-1-phenyl-2-oxa-7-thia-4,11-diazatricosane-5-carboxylate was stirred in a 30% TFA/DCM (0.05 M) solution for 2 hours at room temperature. The reaction was then concentrated and diluted with DCM. The organic phase was washed once with 1 M citric acid (pH3) then dried over anhydrous Na2SO4, filtered and concentrated to afford the title compound as a viscous oil that was used with no further purification.

reactant | (5R,9R)-tert-butyl 9-dodecanamido-3,12-dioxo-1-phenyl-2-oxa-7-thia-4,11-diazatricosane-5-carboxylate | C(CCCCCCCCCCC)(=O)N[C@@H](CSC[C@H](NC(OCC1=CC=CC=C1)=O)C(=O)OC(C)(C)C)CNC(CCCCCCCCCCC)=O | C42H73N3O6S
reactant | TFA DCM | 0.05 M | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (5R,9R)-9-dodecanamido-3,12-dioxo-1-phenyl-2-oxa-7-thia-4,11-diazatricosane-5-carboxylic acid | C(CCCCCCCCCCC)(=O)N[C@@H](CSC[C@H](NC(OCC1=CC=CC=C1)=O)C(=O)O)CNC(CCCCCCCCCCC)=O | C38H65N3O6S
